US08193228B2
To a solution of 2,5-dibromopyridine (15.21 g, 64 mmol) in anhydrous toluene (150 mL) at −78° C. under nitrogen was added dropwise with n-BuLi (2.5 M in hexane, 25 mL, 62 mmol). Stirring was continued at −78° C. for 2 h, then ethyl difluoroacetate (11 g, 80 mmol) was added dropwise at −78° C. The mixture was stirred overnight while the temperature rose to room temperature. The mixture was partitioned between EtOAc and brine, the water layer was extracted with EtOAc, the combined organic extracts were dried and concentrated, flash chromatography on silica gel afforded 8.53 g of 1-(5-bromopyridin-2-yl)-2,2-difluoroethanone as white solid.

reactant | 2,5-dibromopyridine | 64 mmol, 15.21 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-BuLi | 62 mmol, 2.5 M, 25 mL | [Li]CCCC
reactant | ethyl difluoroacetate | 80 mmol, 11 g | FC(C(=O)OCC)F | C4H6F2O2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(5-bromopyridin-2-yl)-2,2-difluoroethanone | 8.53 g | BrC=1C=CC(=NC1)C(C(F)F)=O | C7H4BrF2NO
